Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
right arm, face weakness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ yo R-handed man with no past medical history
who presents as transfer from ___ with transient R 
face
and arm weakness. 

Mr. ___ was well when he went to bed yesterday evening. He
slept until 1400 today. This is unusual for him as he usually
walks his dog early in the mornings, but he slept in because it
was a rainy day. 
He woke up and was normal, was able to stand and walk without
difficulty and walked down a flight of 20 stairs.
Once downstairs,  he sat on the couch and his girlfriend noticed
that he had drool at the right corner of his mouth. He also felt
that his right leg was numb (not tingling). He was able to move
the leg but not able to stand. He does not think his right arm
was numb not weak. He was able to move his right arm without
difficulty. These symptoms lasted a total of <5 minutes and
resolved before EMS arrival. They have not recurred. 

He was brought to ___ where CTA showed extrcranial L
ICA dissection with significant luminal stenosis. He was given
ASA *** and transferred to ___. 

Mr. ___ has had no neck pain. No headache. Over the past ~week
he has been raking up leaves at his house and carrying approx. 
20
lb bags of leaves. He works as a ___ and has done no
lifting that is out of the ordinary, but he does lift up to 100
lb regularly. He does not remember any other abnormal neck
movements/straining/twisting. 

 
Past Medical History:
borderline HTN - 147/90 diagnosed last ___.
 
Social History:
___
Family History:
Father d from ___ from Alzheimer dementia
Mother with ESRD since age ___, now deceased. 
No family history of stroke, dissection, aneurysm. 
 
Physical Exam:
ADMISSION EXAM
==============
Vitals:  T: 98.0 HR: 58 BP: 152/99 RR: 16 SaO2: 98% RA
General: Awake, cooperative, NAD.
HEENT: no scleral icterus, MMM, no oropharyngeal lesions. 
Pulmonary: Breathing comfortably, no tachypnea nor increased WOB
Cardiac: Skin warm, well-perfused. 
Abdomen: soft, ND
Extremities: Symmetric, no edema. 

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive to conversation.  Speech 
is
fluent with normal grammar and syntax. No paraphasic errors.
Naming intact to low frequency words. Repetition intact.
Comprehension intact to complex, cross-body commands.  

-Cranial Nerves: PERRL 2.5->2. VFF to confrontation. EOMI with
___ beats bilateral end-gaze nystagmus. Facial sensation intact
to light touch. Face symmetric at rest and with activation.
Hearing intact to conversation. Palate elevates symmetrically.
___ strength in trapezii bilaterally. Tongue protrudes in 
midline
and moves briskly to each side. No dysarthria. 

- Motor:  Normal bulk and tone. No drift. No tremor nor
asterixis. Gross RAM smooth and fast. 
  Delt Bic Tri WrE FFl FE IO IP Quad ___  ___  ___       
L  5    ___   ___  5   5    5  5    5  5               

R  5    ___   ___  5   5    5  5    5  5            

-DTRs:
   Bi Tri ___ Pat Ach Pec jerk   Crossed Abductors
 L  2  2    2    3   1    +                 + 
 R  2  2    2    3   1    +                 +    
Plantar response was flexor bilaterally.

-Sensory: Proprioception intact  to all but smallest excursions
BLE. Intact to LT, temp throughout. 

- Coordination: No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with fine rapid
alternating movements.

- Gait: Normal initiation. Narrow base. Normal stride length and
arm swing. Stable without sway. Negative Romberg. Able to 
perform
heel/toe/tandem gait without difficulty. 

DISCHARGE EXAM
==============
General: NAD.
HEENT: no scleral icterus, MMM, no oral lesions. 
Pulmonary: Breathing comfortably
Cardiac: Skin warm, well-perfused. 
Abdomen: soft, ND
Extremities: no edema. 

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive to conversation.  Speech 
is
fluent with normal grammar and syntax. No paraphasic errors.
Naming intact to low frequency words. Repetition intact.
Comprehension intact to complex commands.  

-Cranial Nerves: PERRL 2.5->2. VFF to confrontation. EOMI with
___ beats bilateral end-gaze nystagmus. Facial sensation intact
to light touch. Face symmetric at rest and with activation.
Hearing intact to conversation. Palate elevates symmetrically.
___ strength in trapezii bilaterally. Tongue protrudes in 
midline
and moves briskly to each side. No dysarthria. 

- Motor:  Normal bulk and tone. No drift. No tremor nor
asterixis. Gross RAM smooth and fast. 
  Delt Bic Tri WrE FFl FE IO IP Quad ___  ___  ___       
L  5    ___   ___  5   5    5  5    5  5               

R  5    ___   ___  5   5    5  5    5  5            

-DTRs:
   Bi Tri ___ Pat Ach 
 L  2  2    2    3   1  
 R  2  2    2    3   1    
Plantar response was flexor bilaterally.

-Sensory: Proprioception intact  to all but smallest excursions
BLE. Intact to LT, temp throughout. 

- Coordination: No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with fine rapid
alternating movements.

- Gait: Normal initiation. Narrow base. Normal stride length and
arm swing. Stable without sway. Negative Romberg. Able to 
perform
heel/toe/tandem gait without difficulty. 

 
Pertinent Results:
ADMISSION LABS
==============
___ 06:08PM BLOOD WBC-10.8* RBC-4.92 Hgb-14.7 Hct-44.0 
MCV-89 MCH-29.9 MCHC-33.4 RDW-12.9 RDWSD-42.3 Plt ___
___ 06:08PM BLOOD Neuts-75.3* Lymphs-15.5* Monos-5.8 
Eos-2.4 Baso-0.7 Im ___ AbsNeut-8.10* AbsLymp-1.67 
AbsMono-0.63 AbsEos-0.26 AbsBaso-0.08
___ 06:08PM BLOOD Plt ___
___ 06:08PM BLOOD Glucose-103* UreaN-11 Creat-0.8 Na-138 
K-4.3 Cl-104 HCO3-22 AnGap-12

DISCHARGE LABS
==============
___ 06:10AM BLOOD WBC-10.2* RBC-5.06 Hgb-15.1 Hct-45.9 
MCV-91 MCH-29.8 MCHC-32.9 RDW-13.1 RDWSD-43.2 Plt ___
___ 06:10AM BLOOD Plt ___
___ 06:10AM BLOOD ___ PTT-29.5 ___
___ 06:10AM BLOOD Glucose-86 UreaN-11 Creat-0.9 Na-141 
K-4.2 Cl-102 HCO3-22 AnGap-17
___ 06:10AM BLOOD ALT-20 AST-20 AlkPhos-86 TotBili-0.5
___ 06:10AM BLOOD Albumin-4.3 Calcium-9.3 Phos-4.0 Mg-2.0 
Cholest-170
___ 06:10AM BLOOD %HbA1c-5.7 eAG-117
___ 06:10AM BLOOD Triglyc-64 HDL-44 CHOL/HD-3.9 LDLcalc-113
___ 06:10AM BLOOD TSH-2.0

IMAGING
=======
MR HEAD W/O CONTRAST Study Date of ___ 
IMPRESSION:
1.  Study is moderately degraded by motion. 
2. Scattered probable subacute left middle cerebral artery 
territory infarcts with no definite evidence of hemorrhagic 
transformation. 
3. The known extracranial distal left internal carotid artery 
dissection and pseudoaneurysm are partially imaged and 
incompletely assessed. 
4. Grossly stable 2-3 mm aneurysm of the left inferior M2 branch 
origin. 

 
Brief Hospital Course:
Outpatient Providers: Mr. ___ is a ___ year old right handed 
man with no significant past medical history who presents as 
transfer from ___ with several minutes of R face and 
leg weakness/numbness concerning for TIA. CTA with extracranial 
L ICA dissection with significant luminal stenosis and focal 
pseudoaneurysm. MRI with scattered early subacute left middle 
cerebral artery territory infarcts, likely shower emboli from 
dissection, no edema or hemorrhage. No clear cause for 
dissection, though he does heavy lifting on a regular basis 
(60-70 lb), works as a ___. Neurologic exam normal. Risk 
factors notable for A1C 5.7, LDL 113. Initiated ASA 325, 
atorvastatin 40. Prior to discharge, was counseled to avoid air 
travel for 1 month, and to avoid any heavy lifting or neck 
manipulation (chirop___, etc). 

TRANSITIONAL ISSUES
===================
[] f/u repeat MRI/MRA neck in 3 months, ordered prior to 
discharge
[] continue to monitor HgA1C 5.7, prediabetic range

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack 
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why: 
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.) 
3. Antithrombotic therapy administered by end of hospital day 2? 
() Yes - (x) No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 113) - () No 
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
6. Smoking cessation counseling given? () Yes - () No [reason 
(x) non-smoker - () unable to participate] 
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No 
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No 
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A 
 
Medications on Admission:
None
 
Discharge Medications:
1.  Aspirin 325 mg PO DAILY  
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#left middle cerebral artery territory infarcts
#left ICA dissection
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,  

You were hospitalized due to symptoms of right sided weakness 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  

Your risk factors for stroke include:
 1) high cholesterol

We are changing your medications as follows:  
 1) starting aspirin
 2) starting atorvastatin to help lower your cholesterol

Please follow up with Neurology and your primary care physician 
as listed below.  

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___